US05516783
Lithium aluminium hydride (3.68 g, 97 mmol) was added portionwise to a stirred solution of (4-fluorophenyl)-(2-thienyl)ketone (10.0 g, 48.5 mmol) in dry THF (160 ml) at room temperature under argon. The mixture was stirred overnight and water (3.7 ml) added dropwise with caution. After 0.5 h 15% aqueous sodium hydroxide (3.7 ml) was added and the mixture stirred for 0.5 h, finally water (11 ml) was added and the mixture stirred for 0.5 h. The precipitate was removed by filtration through celite and the flitrate was concentrated under reduced pressure to give (4-fluorophenyl)-(2-thienyl)methanol (10.0 g, 99%) as a yellow oil.

reactant | Lithium aluminium hydride | 97 mmol, 3.68 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (4-fluorophenyl)-(2-thienyl)ketone | 48.5 mmol, 10.0 g | FC1=CC=C(C=C1)C(=O)C=1SC=CC1 | C11H7FOS
reactant | water | 3.7 ml | O | H2O
reactant | sodium hydroxide | 3.7 ml | [OH-].[Na+]
reactant | water | 11 ml | O | H2O
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | (4-fluorophenyl)-(2-thienyl)methanol | 10.0 g, 99% | FC1=CC=C(C=C1)C(O)C=1SC=CC1 | C11H9FOS
